** sch_path: /foss/designs/B04_comparator/B04_tb_comparator.sch
**.subckt B04_tb_comparator
Vinn inn 0 1.65
VDD net1 0 3.3
Vinp inp 0 PWL(0 1.5 2u 1.8 4u 1.5)
I0 net1 ib 100n
x1 net1 Q_bar inn inp ib 0 B04_comparator
**** begin user architecture code

.include /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical



.include /foss/designs/B04_comparator/B04_comparator.pex.spice
.control
tran 10n 4u
plot v(Q_bar) vs v(inp) retraceplot
.endc


**** end user architecture code
**.ends

* expanding   symbol:  B04_comparator.sym # of pins=6
** sym_path: /foss/designs/B04_comparator.sym
** sch_path: /foss/designs/B04_comparator.sch
.subckt B04_comparator VDD Q_BAR INN INP IB GND
*.iopin VDD
*.iopin GND
*.ipin INN
*.ipin INP
*.iopin IB
*.opin Q_BAR
XM1 net2 IB GND GND nfet_03v3 L=0.56u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 IB IB GND GND nfet_03v3 L=0.56u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 net1 net1 GND GND nfet_03v3 L=0.56u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMqqq net3 INN net2 GND nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMqqq1 net4 INP net2 GND nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 Q_BAR net1 GND GND nfet_03v3 L=0.56u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMq0 net3 net3 VDD VDD pfet_03v3 L=0.28u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMq1 net1 net3 VDD VDD pfet_03v3 L=0.28u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMq4 net3 net4 VDD VDD pfet_03v3 L=0.28u W=3.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMq5 net4 net3 VDD VDD pfet_03v3 L=0.28u W=3.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMq2 net4 net4 VDD VDD pfet_03v3 L=0.28u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMq3 Q_BAR net4 VDD VDD pfet_03v3 L=0.28u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
