** sch_path: /foss/designs/B04_clock_gen.sch
.subckt B04_clock_gen VDD Vout en GND
*.PININFO GND:B VDD:B Vout:O en:I
M1 net4 net3 VDD VDD pfet_03v3 L=1u W=0.5u nf=1
M5 net1 GND net2 VDD pfet_03v3 L=10u W=0.5u nf=1
M6 net2 VDD net1 GND nfet_03v3 L=20u W=0.5u nf=1
XC2 net1 GND cap_mim_2f0fF c_width=10u c_length=20u m=12
x1 VDD net1 net3 GND B04_schmitt_trigger
M4 net5 net3 GND GND nfet_03v3 L=1u W=0.5u nf=1
M2 net5 en net4 net4 pfet_03v3 L=1u W=0.5u nf=1
M3 net5 en GND GND nfet_03v3 L=1u W=0.5u nf=1
M7 net2 net5 VDD VDD pfet_03v3 L=1u W=0.5u nf=1
M8 net2 net5 GND GND nfet_03v3 L=1u W=0.5u nf=1
M9 Vout net2 VDD VDD pfet_03v3 L=1u W=0.5u nf=1
M10 Vout net2 GND GND nfet_03v3 L=1u W=0.5u nf=1
.ends

* expanding   symbol:  B04_schmitt_trigger.sym # of pins=4
** sym_path: /foss/designs/B04_schmitt_trigger.sym
** sch_path: /foss/designs/B04_schmitt_trigger.sch
.subckt B04_schmitt_trigger VDD Vin Vout GND
*.PININFO VDD:B GND:B Vin:I Vout:O
M1 net1 Vin net2 VDD pfet_03v3 L=27u W=0.5u nf=1
M2 Vout Vin net1 VDD pfet_03v3 L=27u W=0.5u nf=1
M3 net1 Vout GND VDD pfet_03v3 L=1u W=1u nf=1
M4 Vout Vin net3 GND nfet_03v3 L=27u W=0.5u nf=1
M5 net3 Vin GND GND nfet_03v3 L=27u W=0.5u nf=1
M6 net3 Vout VDD GND nfet_03v3 L=1u W=1u nf=1
M7 net2 GND VDD VDD pfet_03v3 L=27u W=0.5u nf=1
M8 GND VDD GND GND nfet_03v3 L=27u W=0.5u nf=1
.ends

